US09079866B2
3-Amino-6-{3-fluoro-2′-[(3-oxopiperazin-1-yl)sulfonyl]biphenyl-4-yl}pyrazine-2-carbonitrile
The title compound was prepared in a manner similar to that described in Example 88 using 4-((2-bromophenyl)sulfonyl)piperazin-2-one and 3-amino-6-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazine-2-carbonitrile. MS (ESI): mass calcd. for C21H17FN6O3S, 452.11; m/z found, 453.0 [M+H]+. 1H NMR (500 MHz, CD3OD) δ 8.65 (d, J=2.1, 1H), 8.05 (dd, J=8.1, 1.3, 1H), 7.85 (m, 1H), 7.65 (m, 1H), 7.55 (m, 1H), 7.36 (dd, J=7.6, 1.3, 1H), 7.26-7.17 (m, 2H), 3.29 (s, 2H), 3.04 (s, 4H).

reactant | 4-((2-bromophenyl)sulfonyl)piperazin-2-one | BrC1=C(C=CC=C1)S(=O)(=O)N1CC(NCC1)=O | C10H11BrN2O3S
reactant | 3-amino-6-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazine-2-carbonitrile | NC=1C(=NC(=CN1)C1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)F)C#N | C17H18BFN4O2
product | 3-Amino-6-{3-fluoro-2′-[(3-oxopiperazin-1-yl)sulfonyl]biphenyl-4-yl}pyrazine-2-carbonitrile | NC=1C(=NC(=CN1)C1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)N1CC(NCC1)=O)F)C#N | C21H17FN6O3S
